US08431563B2
A 250-mL pressure tube was charged with methyl (2E)-2-((tert-butoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)-2-propenoate (8.75 g, 30.7 mmol), MeOH (100 mL), and rhodium[(1R,1′R,2R,2′R)-2,2′-bis(1,1-dimethylethyl)-2,2′,3,3′-tetrahydro-1,1′-bi-1H-isophosphindole-κP2,κP2′][(1,2,5,6-η)-1,5-cyclooctadiene]tetrafluoroborate (0.209 g, 0.30 mmol, ChiralQuest, Monmouth Junction, N.J.). The mixture was stirred under a 50 psi (344 kilopascal) hydrogen atmosphere for 3 h. The mixture was then filtered through a pad of silica, washing with 1:1 EtOAc in hexanes, and then concentrated to give methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alaninate.

reactant | methyl (2E)-2-((tert-butoxycarbonyl)amino)-3-(tetrahydro-2H-pyran-4-yl)-2-propenoate | 30.7 mmol, 8.75 g | C(C)(C)(C)OC(=O)N\C(\C(=O)OC)=C\C1CCOCC1 | C14H23NO5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
product | methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alaninate | C(C)(C)(C)OC(=O)N[C@@H](CC1CCOCC1)C(=O)OC | C14H25NO5
